US07625886B2
(R)-2-[4-(4-ethoxycarbonylmethyl-piperazin-1-yl)-piperidin-1-yl]-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
56 mg (0.22 mmol) ethyl (4-piperidin-4-yl-piperazin-1-yl)-acetate were added to a solution of 100 mg (0.20 mmol) (R)-1-carboxy-2-(4-methyl-2-oxo-2,3-dihydrobenz-oxazol-6-yl)-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 71 mg (0.22 mmol) TBTU and 31 μL (0.22 mmol) triethylamine in 1 mL DMF and the reaction mixture was shaken overnight at RT. The reaction solution was purified by HPLC without working up; the fractions containing the product were concentrated by evaporation and lyophilised.

reactant | ethyl (4-piperidin-4-yl-piperazin-1-yl)-acetate | 0.22 mmol, 56 mg | N1CCC(CC1)N1CCN(CC1)CC(=O)OCC | C13H25N3O2
reactant | (R)-1-carboxy-2-(4-methyl-2-oxo-2,3-dihydrobenz-oxazol-6-yl)-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.20 mmol, 100 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC(O3)=O)C(=C1)C)C(=O)O)C=CC=C2 | C26H28N4O7
reactant | TBTU | 0.22 mmol, 71 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.22 mmol, 31 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-2-[4-(4-ethoxycarbonylmethyl-piperazin-1-yl)-piperidin-1-yl]-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)CC(=O)OCC)CC1=CC3=C(NC(O3)=O)C(=C1)C)C=CC=C2 | C39H51N7O8
